Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
Bactrim / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
BPH, LUTS
 
Major Surgical or Invasive Procedure:
___ Transurethral resection of the prostate

 
History of Present Illness:
___ with BOO, urgency, intermittency, and high PVR.  Intolorance 
of alpha blockers.

 
Past Medical History:
BPH
MV repair
GERD
erectile dysfunction

 
Physical Exam:
NAD
Abd soft, nt/nd
Foley with light pink urine, no clots
 
Brief Hospital Course:
The patient was admitted to Dr. ___ service after 
TURP on ___. No concerning intraoperative events occurred; 
please see dictated operative note for details. The patient 
received ___ antibiotic prophylaxis. Patient's 
postoperative course was uncomplicated. He received intravenous 
antibiotics and pyridium, maintained on bedrest and continous 
bladder irrigation overnight. On POD1, the CBI and foley 
catheter were discontinued.  A voiding trila was attempted but 
the patient could not urinate.  A catheter was replaced at that 
time and pink urine with minimal clots was drained.  He remained 
afebrile throughout his hospital stay.  At discharge, patient's 
pain well controlled with oral pain medications, tolerating 
regular diet, ambulating without assistance.  He will be 
discharged with his catheter.  He is given explicit instructions 
to call Dr. ___ follow-up.

 
Medications on Admission:
levitra
proscar/cardura

 
Discharge Medications:
1. oxycodone 5 mg Tablet Sig: One (1) Tablet PO every ___ hours 
as needed for pain.
Disp:*10 Tablet(s)* Refills:*0*
2. senna 8.6 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*2*
3. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*60 Capsule(s)* Refills:*2*
4. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO twice a 
day for 2 days: To start the day before your catheter is 
removed. Take until finished.
Disp:*4 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
BENIGN PROSTATIC HYPERTROPHY

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Resume all of your pre-admission medications, except HOLD 
aspirin until you see your urologist in follow up AND your foley 

has been removed

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthrough pain >4. 
Replace Tylenol with narcotic pain medication.

-Max daily Tylenol (acetaminophen) dose is 4 grams from ALL 
sources, note that narcotic pain medication also contains 
Tylenol

-Do not drive or drink alcohol while taking narcotics and do not 

operate dangerous machinery. Also, if the Foley catheter and Leg 

Bag are in place--Do NOT drive (you may be a passenger).

 
Followup Instructions:
___